US09381260B2
N-[(8-Hydroxy-2,2-dimethyl-2H-chromen-6-yl)methyl]-N-(propan-2-yl)pyridine-2-sulfonamide (6h)
N-[(8-Methoxymethoxy-2,2-dimethyl-2H-chromen-6-yl)methyl]-N-(propan-2-yl)pyridine-2-sulfonamide (31 mg, 0.07 mmol) was dissolved in a cosolvent of tetrahydrofuran (1 mL) and 6 N aqueous HCl (1 mL), and the reaction stirred for 3 h. Ten milliliters of water was added to the reaction mixture, and then tetrahydrofuran was evaporated. The remaining aqueous phase was extracted by methylene chloride (10 mL×3), washed with brine, dried with anhydrous magnesium sulfate, and concentrated in vacuo. 6h (19 mg, 49%) was purified by silica gel chromatography with ethyl acetate/hexane (1/1). 1H NMR (CDCl3): δ 0.77 (d, J=6.45 Hz, 6H), 1.44 (s, 6H), 1.72-1.79 (m, 1H), 3.11 (d, J=7.62 Hz, 2H), 4.39 (s, 2H), 5.61 (d, J=9.67 Hz, 1H), 6.25 (d, J=9.96 Hz, 1H), 6.50 (d, J=1.76 Hz, 1H), 6.65 (d, J=1.76 Hz, 1H), 7.43-7.47 (m, 1H), 7.84-7.97 (m, 2H), 8.69 (d, J=4.40 Hz, 1H). HRMS (m/z): [M+Na]+ calcd 425.15055, found 425.15091. HPLC-1: flow rate 2 mL/min, tR=2.9 min, purity=100%; flow rate 1 mL/min, tR=5.6 min, purity=100%. HPLC-2: tR=5.172 min, purity=100%.

reactant | N-[(8-Methoxymethoxy-2,2-dimethyl-2H-chromen-6-yl)methyl]-N-(propan-2-yl)pyridine-2-sulfonamide | 0.07 mmol, 31 mg | COCOC=1C=C(C=C2C=CC(OC12)(C)C)CN(S(=O)(=O)C1=NC=CC=C1)C(C)C | C22H28N2O5S
reactant | water | Ten milliliters | O | H2O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | HCl | 6 N, 1 mL | Cl | ClH
product | N-[(8-Hydroxy-2,2-dimethyl-2H-chromen-6-yl)methyl]-N-(propan-2-yl)pyridine-2-sulfonamide | OC=1C=C(C=C2C=CC(OC12)(C)C)CN(S(=O)(=O)C1=NC=CC=C1)C(C)C | C20H24N2O4S
